US03992432
Malononitrile (128 g, 1.94 moles) was added dropwise to a mixture of 500 g (3.65 moles) of 1-bromobutane, 10 g of tricaprylylmethylammonium chloride,146 g (3.63 moles) of sodium hydroxide and 450 ml of water. The addition rate was controlled such that the temperature was maintained at 45°-50° C. After the addition was complete, the mixture was stirred for two hours longer at 50° C. The organic layer was separated and washed twice with 300 ml portions of saturated aqueous sodium chloride. The product was then distilled to give 197 g of recovered1-bromobutane and 170 g of 5,5-dicyanononane (87% selectivity based on 1-bromobutane) having a boiling point of 145° C at 30 mm Hg.

reactant | Malononitrile | 1.94 moles, 128 g | C(CC#N)#N | C3H2N2
reactant | 1-bromobutane | 3.65 moles, 500 g | BrCCCC | C4H9Br
reactant | sodium hydroxide | 3.63 moles, 146 g | [OH-].[Na+]
catalyst | tricaprylylmethylammonium chloride | 10 g | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
solvent | water | 450 ml | O | H2O
product | 5,5-dicyanononane | 170 g, 87% | C(#N)C(CCCC)(CCCC)C#N | C11H18N2
